US06894061B2
4-Chl ro-1,1′-biphenyl-2-ylamine
A stirred solution of 2-bromo-5-chloronitrobenzene (5.00 g, 21.2 mmol) and phenylboronic acid (2.58 g, 21.2 mmol) in tetrahydrofuran (85 mL) was treated under nitrogen with [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II) complex with dichloromethane (0.52 g, 0.63 mmol, 3 mole %) and a 5 N sodium hydroxide solution (8.5 mL, 42.5 mmol). The reaction was heated at 60° C. for twelve hours, cooled to room temperature, and the solvent removed in vacuo. The residue was treated with ethyl acetate (200 mL) and a saturated aqueous sodium chloride solution (100 mL). The phases were separated and the aqueous phase was extracted with ethyl acetate (2×50 mL). The combined organic phase was dried over anhydrous magnesium sulfate, filtered, and the solvent concentrated in vacuo. The resulting brown oil was filtered through a plug of silica gel (20:80 ethyl acetate:hexane). After concentration of the solvent in vacuo, the resulting, pure 4-chloro-2-nitro-biphenyl (4.66 g, 19.0 mmol, 94%) was dissolved in acetic acid (13.2 mL) and ethanol (13.2 mL). Iron granules (15.6 g, 278 mmol) were added and the mixture was stirred with a mechanical stirrer for 12 hours. The mixture was diluted with ethanol and then filtered through Celite® filter aid. The resulting solution was concentrated in vacuo, diluted with toluene and concentrated in vacuo (×3) to afford a viscous oil. The viscous oil was purified by flash column chromatography, eluting with a mixture of ethyl acetate-hexane (1:4), to afford the title compound as a homogeneous oil (3.46 g, 85%);

reactant | 2-bromo-5-chloronitrobenzene | 21.2 mmol, 5.00 g | BrC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C6H3BrClNO2
reactant | phenylboronic acid | 21.2 mmol, 2.58 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | dichloromethane | 0.63 mmol, 0.52 g | ClCCl | CH2Cl2
reactant | sodium hydroxide | 42.5 mmol, 5 N, 8.5 mL | [OH-].[Na+]
reactant | 4-chloro-2-nitro-biphenyl | 19.0 mmol, 4.66 g | ClC1=CC(=C(C=C1)C1=CC=CC=C1)[N+](=O)[O-] | C12H8ClNO2
solvent | tetrahydrofuran | 85 mL | O1CCCC1 | C4H8O
solvent | acetic acid | 13.2 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 13.2 mL | C(C)O | C2H6O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | Iron | [Fe] | Fe
product | 1,1′-biphenyl-2-ylamine | 3.46 g, 85% | C1(=C(C=CC=C1)N)C1=CC=CC=C1 | C12H11N
